US04147872
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-4-(3-phenylpropyl)-1,2,5,6-tetrahydropyridine
A mixture of 2.0 g. (4.57 mmols.) of 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-(3-phenylpropyl)-4-piperidinol, 0.95 g. (5.0 mmols.) of p-toluenesulfonic acid monohydrate and 100 ml. of toluene is heated under reflux for 2 hours with a Dean Stark trap. The reaction mixture is cooled and added to 100 ml. of 20% potassium carbonate-200 ml. dichloromethane. The dichloromethane extract along with two additional 200 ml. dichloromethane extracts of the basic phase is dried over magnesium sulfate and evaporated. The residue is crystallized from ether-pentane to yield the title compound.

reactant | 3-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-(3-phenylpropyl)-4-piperidinol | 4.57 mmols | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1CNCCC1(O)CCCC1=CC=CC=C1)O | C29H43NO2
reactant | p-toluenesulfonic acid monohydrate | 5.0 mmols | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | 200 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-4-(3-phenylpropyl)-1,2,5,6-tetrahydropyridine | CC(CCCCCC)(C)C1=CC(=C(C=C1)C=1CNCCC1CCCC1=CC=CC=C1)O | C29H41NO
